US07355069B2
d) 2-{[(4-{2-[(2,4-Difluorobenzyl)(heptyl)amino]-2-oxoethyl}phenyl)thio]methyl}benzoic acid
Methyl 2-{[(4-{2-[(2,4-difluorobenzyl)(heptyl)amino]-2-oxoethyl}phenyl)thio]methyl}-benzoate (31 mg, 0.057 mmol) was dissolved in THF (1 ml) and cooled in an ice-bath. Lithium hydroxide (2 mg, 0.075 mmol) in water (1 ml) was added. After the addition, the cooling bath was removed and the mixture was stirred overnight. LC-MS showed there was very little product. More lithium hydroxide (3 mg) was added and the mixture was stirred for 6 days more and HPLC showed about 30% product. More (3 mg) of lithium hydroxide was added and the mixture was stirred for 13 days more. It was evaporated in vacuum to remove THF. The residue was acidified with 10% hydrochloric acid, pH˜3, and extracted with ethyl acetate (×2). The organic phases were combined, dried (magnesium sulphate) and evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 500 g/3 ml) using DCM, MeOH/DCM (0.5:99.5) as eluant gave 17 mg desired product, yield 56%.

reactant | Methyl 2-{[(4-{2-[(2,4-difluorobenzyl)(heptyl)amino]-2-oxoethyl}phenyl)thio]methyl}-benzoate | 0.057 mmol, 31 mg | FC1=C(CN(C(CC2=CC=C(C=C2)SCC2=C(C(=O)OC)C=CC=C2)=O)CCCCCCC)C=CC(=C1)F | C31H35F2NO3S
reactant | Lithium hydroxide | 0.075 mmol, 2 mg | [OH-].[Li+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 2-{[(4-{2-[(2,4-Difluorobenzyl)(heptyl)amino]-2-oxoethyl}phenyl)thio]methyl}benzoic acid | 17 mg, yield 56% | FC1=C(CN(C(CC2=CC=C(C=C2)SCC2=C(C(=O)O)C=CC=C2)=O)CCCCCCC)C=CC(=C1)F | C30H33F2NO3S
